US07612067B2
Preparation of Preparation of 3-(4,5-dibromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a solution of 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (5.92 g, 14.34 mmol) and trifluoroacetic acid (40 mL) and 98% H2SO4 (10 ml) is added NBS (3.83 g, 21.15 mmol). After 10 minutes the solution is poured into ice, and made basic with 5M NaOH. The slurry is extracted with EtOAc (3×100 mL), the combined organic layers washed with water (2×400 mL), brine (400 mL), dried over MgSO4, filtered and concentrated to furnish the title compound (6.61 g, 13.44 mmol, 94%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.72-1.92 (m, 4H), 2.47 (s, 3H), 2.52 (s, 3H), 3.25-3.34 (m, 1H), 6.72 (s, 1H). LC/MS (m/z): calcd. for C17H18Br2ClN3S (M+H)+: 489.9; found: 490.0.

reactant | 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 14.34 mmol, 5.92 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
reactant | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NBS | 21.15 mmol, 3.83 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaOH | 5M | [OH-].[Na+]
solvent | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
product | 3-(4,5-dibromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 13.44 mmol, 6.61 g, 94% | BrC=1C(=C(SC1Br)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H18Br2ClN3S
